US06432993B1
t-Butyl N-[5-(3-dimethylaminophenoxy)-2-nitrophenyl]-N-methylcarbamate
In a similar manner to that described in Reference Example 6, a reaction was carried out using 3-dimethylaminophenol (0.82 g), t-butyl N-(5-chloro-2-nitrophenyl)-N-methylcarbamate (1.72 g), sodium hydride (55 wt. %, 0.26 g) and anhydrous N,N-dimethylformamide (50 ml) and the reaction mixture was purified to give the title compound (2.17 g).

reactant | 3-dimethylaminophenol | 0.82 g | CN(C=1C=C(C=CC1)O)C | C8H11NO
reactant | t-butyl N-(5-chloro-2-nitrophenyl)-N-methylcarbamate | 1.72 g | ClC=1C=CC(=C(C1)N(C(OC(C)(C)C)=O)C)[N+](=O)[O-] | C12H15ClN2O4
reactant | sodium hydride | 0.26 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | t-Butyl N-[5-(3-dimethylaminophenoxy)-2-nitrophenyl]-N-methylcarbamate | 2.17 g | CN(C=1C=C(OC=2C=CC(=C(C2)N(C(OC(C)(C)C)=O)C)[N+](=O)[O-])C=CC1)C | C20H25N3O5
